US04582919
0.594 ml of titanium tetraisopropoxide was dissolved in 10 ml of dry methylene chloride. Thereupon, 524 mg of dibutyl D-tartrate were added dropwise at -20° C. and the mixture was left to stand at -20° C. for 10 minutes. 197 mg of 4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2-methyl-2-butenol were then added and subsequently a further 180 mg of tert.butyl hydroperoxide (80%) were added dropwise (as a solution in 0.5 ml of methylene chloride). The thus-obtained yellow solution was left to stand at -20° C. for 4 to 5 days, then treated with 5 ml of 1N sodium hydroxide solution, left to warm to room temperature and stirred for 1 hour. The phases were then separated, the aqueous phase was washed twice with methylene chloride, the organic phases were dried over sodium sulphate and concentrated. The colourless oil obtained was dissolved in 20 ml of ethyl ether and stirred with 5 ml of 1N sodium hydroxide solution for 1 hour. The phases were again separated, the aqueous phase was washed twice with ethyl ether, the organic phases were dried over sodium sulphate and concentrated. There were obtained 188 mg (98%) of (2R,3R)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2,3-epoxy-2-methylbutanol. [α]D20 +18.2° (c=2% in chloroform).

reactant | dibutyl D-tartrate | 524 mg | C(=O)(OCCCC)[C@@H](O)[C@H](O)C(=O)OCCCC | C12H22O6
reactant | 4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2-methyl-2-butenol | 197 mg | COC1=C(C(=C(C(=C1C)C)OC)C)CC=C(CO)C | C16H24O3
reactant | tert.butyl hydroperoxide | 180 mg | C(C)(C)(C)OO | C4H10O2
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
catalyst | titanium tetraisopropoxide | 0.594 ml | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | (2R,3R)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2,3-epoxy-2-methylbutanol | 188 mg, 98% | COC1=C(C(=C(C(=C1C)C)OC)C)C[C@@H]1[C@](CO)(C)O1 | C16H24O4
